*****************************************************************
* NXP PSMN2R4-30MLD
*
* Polarity N-Channel
* Ratings 30V/2.400000E-003OHMS/70A
*
* Date Created Mon Jan 20 02:04:46 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R4-30MLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 0.981801357717194
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 0.791681348704628
RLS1 8 7 0.00024

RDS 7 4 24000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00139088559100692 TC=0.00555714058849787,3.2230421206556E-06
RBD 9 4 0.000872461603973945 TC=0.00555714058849787,3.2230421206556E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.83329640658408e-09
RG 1 2 0.74352

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1489.34

+ -1	963.324

+ -0.5	734.001

+ -0.2	639.052

+ -0.1	636.93

+ 0	600.44562

+ 0.1	540.57072

+ 0.2	539.8934

+ 0.5	472.34868

+ 1	401.07268

+ 2	323.125

+ 3	277.7038

+ 4	243.98092

+ 5	217.128

+ 6	197.5558

+ 8	175.55392

+ 10	165.57844

+ 12	160.372

+ 15	155.8742



.MODEL MINT NMOS(Vto=2.07895125089673 Kp=4.779971e+002 Nfs=320000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.6332046400434e-12
+ N=1 M=0.37 VJ=0.66 Fc=0.5 Cjo=3.12986176e-09 Tt=1.5792e-08)

.ENDS

